US06525052B2
Lithium diisopropylamide (1.5 M solution in cyclohexane/THF/ethylbenzene) (113 mL, 169 mmol, 1.1 equiv) was syringed into a 1000 mL round-bottom flask under a blanket of Ar. Dry THF (150 mL) was added and the mixture was cooled to −78° C. with a dry-ice/acetone bath. 3-Methyl-butanoic acid ethyl ester (20 g, 23 mL, 154 mmol, 1.0 equiv) was added dropwise from a syringe over a 10 min period followed by stirring at −78° C. for 1 h. Methyl iodide (10.5 mL, 169 mmol, 1.1 equiv) was added dropwise from a syringe over a 10 min period and the creamy mixture was stirred for 1 h at −78° C., resulting in a very thick mixture. The dry-ice bath was removed and replaced with an ice bath at 0° C. Another 150 mL of dry THF was added followed by another addition of LDA (113 mL, 169 mmol, 1.1 equiv). The resulting mixture was stirred for 10 min and then the flask was re-immersed in a dry-ice/acetone bath. Stirring was continued for another 50 min and then methyl iodide was added dropwise (10.5 mL, 169 mmol, 1.1 equiv) and the dry-ice/acetone bath was removed and the resulting mixture was stirred at ambient temperature for 14 h. The reaction mixture was quenched with 3 mL of conc. HCl and 2 N HCl was added until the pH was adjusted to <1. The mixture was further diluted with 150 mL water and 500 mL Et2O. The layers were separated and the organic layer was washed with 1×100 mL 2 N HCl, 1×100 mL saturated NaHCO3, and 1×200 mL brine. The organic layer was dried over Na2SO4 and then concentrated in vacuo to provide 2,2,3-trimethylbutanoic acid ethyl ester as an orange oil mixed with ethyl benzene (36.4 g of which 22.1 g was product by NMR). The mixture was used without further purification.

reactant | Lithium diisopropylamide | 169 mmol, 1.5 M, 113 mL, 1.1 equiv | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-Methyl-butanoic acid ethyl ester | 154 mmol, 23 mL, 20 g, 1.0 equiv | C(C)OC(CC(C)C)=O | C7H14O2
reactant | Methyl iodide | 169 mmol, 10.5 mL, 1.1 equiv | CI | CH3I
reactant | LDA | 169 mmol, 113 mL, 1.1 equiv | [Li+].CC(C)[N-]C(C)C
reactant | THF | 150 mL | C1CCOC1 | C4H8O
product | 2,2,3-trimethylbutanoic acid ethyl ester | C(C)OC(C(C(C)C)(C)C)=O | C9H18O2
